US06632815B2
The mixture of 1 -fluoro-4-nitrobenzene (880 mg, 6.2 mmol), 1-methylhomopiperazine (2.3 mL, 18.6 mmol), Cs2CO3 (6.1 g, 18.6 mmol) in 20 mL DMF was stirred at 100° C. for 1.5 hr. It was diluted with DCM, filtered to remove the inorganic salts, washed with water, dried, evaporated in vacuuo to afford 1-(4-nitrophenyl)-4-methylhomopiperazine in quantitative yield. ES-MS: (M+H)+236.

reactant | 1 -fluoro-4-nitrobenzene | 6.2 mmol, 880 mg | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1-methylhomopiperazine | 18.6 mmol, 2.3 mL | CN1CCNCCC1 | C6H14N2
reactant | Cs2CO3 | 18.6 mmol, 6.1 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(4-nitrophenyl)-4-methylhomopiperazine | quantitative yield | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CCC1)C | C12H17N3O2
